US04507306
cis-1,2,3,4,4a,9b-Hexahydro-4a-(3-hydroxyphenyl)-2-methyl-benzofuro[3,2-c]pyridine
A mixture of 3.50 g of cis-1,2,3,4,4a,9b-hexahydro-4a-(3-methyoxyphenyl)-2-methyl-benzofuro[3,2-c]pyridine and 3.62 g of lithium thiomethoxide in 30 ml of dry hexamethylphosphoramide was heated at 140° under a drying tube for 41/2 hours. The cooled reaction mixture was diluted with 350 ml of water and the pH adjusted to 7 by slow addition of 2N HCl with stirring. The mixture was extracted with ether (2×300), and the combined extracts were washed with water (3×300 ml), dried over anhydrous Na2SO4, and evaporated in vacuo to provide 3.16 g (94.8%) a solid foam. This material was boiled and triturated with a small amount of ether. After cooling to 0°, the resulting solid was filtered off, washed with cold ether, and dried to afford 2.58 g (77.4%) of crystalline solid, m.p. s 157°, 158°-160°.

reactant | cis-1,2,3,4,4a,9b-hexahydro-4a-(3-methyoxyphenyl)-2-methyl-benzofuro[3,2-c]pyridine | 3.50 g | COC=1C=C(C=CC1)[C@@]12[C@@H](CN(CC1)C)C1=C(O2)C=CC=C1 | C19H21NO2
reactant | lithium thiomethoxide | 3.62 g | C[S-].[Li+]
reactant | HCl | 2N | Cl | ClH
solvent | hexamethylphosphoramide | 30 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | 350 ml | O | H2O
product | cis-1,2,3,4,4a,9b-Hexahydro-4a-(3-hydroxyphenyl)-2-methyl-benzofuro[3,2-c]pyridine | 3.16 g, 94.8% | OC=1C=C(C=CC1)[C@@]12[C@@H](CN(CC1)C)C1=C(O2)C=CC=C1 | C18H19NO2
